US09108957B2
To a solution of diethyl 2-(4-bromophenyl)malonate (18.1 g, 57.5 mmol) in ether (285 ml) was added 0.98M-diisobutylaluminium hydride in hexane (259 ml, 254 mmol) at 0° C. under nitrogen atmosphere. The resulting mixture was stirred at 0° C. for 4 hours. Aqueous potassium sodium tartrate (0.57M, 500 ml) was added to the reaction mixture for quenching the aluminum reagent and the mixture was stirred for 14 hours. The organic layer was extracted with ethyl acetate and dried over sodium sulfate. After concentration, the residue was purified by silica gel column chromatography (eluant: hexane/ethyl acetate=40/60 to ethyl acetate only) to afford 2-(4-bromophenyl)propane-1,3-diol as white solid (4.97 g, 37%).

reactant | diethyl 2-(4-bromophenyl)malonate | 57.5 mmol, 18.1 g | BrC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C13H15BrO4
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hexane | 254 mmol, 259 ml | CCCCCC | C6H14
reactant | potassium sodium tartrate | 0.57M, 500 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | ether | 285 ml | CCOCC | C4H10O
product | 2-(4-bromophenyl)propane-1,3-diol | 4.97 g, 37% | BrC1=CC=C(C=C1)C(CO)CO | C9H11BrO2
